US07754742B2
1-[4-(4-Aminomethyl-benzyloxy)-2-hydroxy-3-trifluoromethyl-phenyl]-3-methyl-butan-1-one hydrochloride
Add 4M hydrogen chloride in 1,4-dioxane (25 mL) to a mixture of {4-[3-hydroxy-4-(3-methyl-butyryl)-2-trifluoromethyl-phenoxymethyl]-benzyl}-carbamic acid tert-butyl ester (1.4 g, 2.91 mmol) in anhydrous 1,4-dioxane (25 mL) and heat the reaction at 50° C. for 1.5 hrs. Cool the reaction mixture to room temperature, dilute with ethyl acetate, and filter to provide the product as a white solid (934 mg, 2.24 mmol, 77% yield).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | {4-[3-hydroxy-4-(3-methyl-butyryl)-2-trifluoromethyl-phenoxymethyl]-benzyl}-carbamic acid tert-butyl ester | 2.91 mmol, 1.4 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)COC1=C(C(=C(C=C1)C(CC(C)C)=O)O)C(F)(F)F)=O | C25H30F3NO5
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-Aminomethyl-benzyloxy)-2-hydroxy-3-trifluoromethyl-phenyl]-3-methyl-butan-1-one hydrochloride | 2.24 mmol, 934 mg, 77% yield | Cl.NCC1=CC=C(COC2=C(C(=C(C=C2)C(CC(C)C)=O)O)C(F)(F)F)C=C1 | InChI=1S/C20H22F3NO3.ClH/c1-12(2)9-16(25)15-7-8-17(18(19(15)26)20(21,22)23)27-11-14-5-3-13(10-24)4-6-14;/h3-8,12,26H,9-11,24H2,1-2H3;1H
